US04101548
4-Amino-6,7-dimethoxy-2-[4-(5-ethoxycarbonylamino-1,2,3-thiadiazole-4-carbonyl)-piperazin-1-yl]-quinazoline Hydrochloride
A solution of 5-ethoxycarbonylamino-1,2,3-thiadiazole-4-carbonyl chloride (5.17 g., 0.022 mole) in dioxane (35 ml. was added to a solution of 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline (6.35 g., 0.022 mole) in dioxane (190 ml.). The resultant mixture was stirred at reflux for 1 hour, and then at 23° C. for 18 hours. Filtration gave the title compound; m.p. 281°-284° C. (dec.) after crystallization from methanol.

reactant | 5-ethoxycarbonylamino-1,2,3-thiadiazole-4-carbonyl chloride | 0.022 mole, 5.17 g | C(C)OC(=O)NC1=C(N=NS1)C(=O)Cl | C6H6ClN3O3S
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | 0.022 mole, 6.35 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 190 ml | O1CCOCC1 | C4H8O2
product | 4-Amino-6,7-dimethoxy-2-[4-(5-ethoxycarbonylamino-1,2,3-thiadiazole-4-carbonyl)-piperazin-1-yl]-quinazoline Hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C=1N=NSC1NC(=O)OCC | InChI=1S/C20H24N8O5S.ClH/c1-4-33-20(30)24-17-15(25-26-34-17)18(29)27-5-7-28(8-6-27)19-22-12-10-14(32-3)13(31-2)9-11(12)16(21)23-19;/h9-10H,4-8H2,1-3H3,(H,24,30)(H2,21,22,23);1H
